US05780498
To a stirred solution of L-alanine t-butyl ester hydrochloride (1.03 g, 5.69 mmol), triethylamine (0.792 ml, 5.69 mmol) and magnesium sulfate (463 mg) in methylene chloride (11 ml) is added benzaldehyde (0.549 ml, 5.40 mmol) at room temperature under nitrogen atmosphere. The reaction mixture is stirred at room temperature for 17 hours, then diluted with water (10 ml), and brine, successively, and dried over magnesium sulfate and concentrated in vacuo to give N-(phenylmethylene)alanine t-butyl ester as a colorless oil.

reactant | L-alanine t-butyl ester hydrochloride | 5.69 mmol, 1.03 g | Cl.C(C)(C)(C)OC([C@@H](N)C)=O
reactant | triethylamine | 5.69 mmol, 0.792 ml | C(C)N(CC)CC | C6H15N
reactant | magnesium sulfate | 463 mg | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | benzaldehyde | 5.40 mmol, 0.549 ml | C(C1=CC=CC=C1)=O | C7H6O
solvent | methylene chloride | 11 ml | C(Cl)Cl | CH2Cl2
solvent | water | 10 ml | O | H2O
solvent | brine | [Cl-].[Na+].O
product | N-(phenylmethylene)alanine t-butyl ester | C(C)(C)(C)OC([C@@H](N=CC1=CC=CC=C1)C)=O | C14H19NO2
